US07700641B2
Synthesis of 1′-pentyl-5-pyridin-4-ylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 4.2, and making non-critical variations using 5-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one to replace 2-(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)-N-(2-fluorophenyl)acetamide, and pyridin-4-ylboronic acid to replace pyrimidine-5-boronic acid, the title compound was obtained (95%) as a white solid: 1H NMR (300 MHz, CDCl3) δ 8.55-8.47 (m, 2H), 7.52-7.46 (dd, 1H), 7.35-7.26 (m, 3H), 7.15 (dd, 1H), 7.07-7.00 (m, 2H), 6.97-6.92 (m, 2H), 4.99 (d, 1H), 4.73 (d, 1H), 3.89-3.67 (m, 2H), 1.80-1.68 (m, 2H), 1.43-1.34 (m, 4H), 0.92 (t, 3H); MS (ES+) m/z 385.5 (M+1).

reactant | 5-bromo-1′-pentylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | BrC=1C=CC2=C(C1)C1(C(N(C3=CC=CC=C13)CCCCC)=O)CO2 | C20H20BrNO2
reactant | 2-(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′H)-yl)-N-(2-fluorophenyl)acetamide | BrC1=C2C3(C(N(C2=CC=C1)CC(=O)NC1=C(C=CC=C1)F)=O)COC1=C3C=C(C(=C1)F)F | C23H14BrF3N2O3
reactant | pyridin-4-ylboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | pyrimidine-5-boronic acid | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 1′-pentyl-5-pyridin-4-ylspiro[1-benzofuran-3,3′-indol]-2′(1′H)-one | C(CCCC)N1C(C2(C3=CC=CC=C13)COC1=C2C=C(C=C1)C1=CC=NC=C1)=O | C25H24N2O2
